Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin
 
Attending: ___
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
___ Paracentesis

 
History of Present Illness:
Mr ___ is a ___ yo M with history of NASH/ETOH cirrhosis 
complicated by diuretic refractory ascites, s/p peritoneal shunt 
placement and removal due to ineffectiveness necessitating 
biweekly paracenteses, grade II esophageal varices status 
post-banding in ___, hepatic encephalopathy, and portal vein 
and SMV thrombosis on systemic anticoagulation presents with 
asterixis and enceophalopathy.  
 The patient's wife noted some difficulty speaking yesterday 
(___) which prompted her to increase his lactulose from 30mL 
q6h to q2h. Today, he was more confused so she increased the 
lactulose to 60mL q2h. Given no improvement, she brought him 
into ___. She says he has been eating/drinking well. Both the 
patient and the wife denies that he has had significant pain. No 
dysuria, cough, SOB. No fevers/chills/sweats. Only new med is 
latanoprost eyedrops for glaucoma. Has been compliant with 
medications.  
 In the ED, initial vitals were: 97 64 110/53 20 100% RA.  
 Labs were notable for: Cr 2.0 (recent baseline 1.4), K 3.0, 
bicarb 14, Na 131, INR 1.2, baseline anemia (H/H 10.5/31.9), 
lactate 1.5.  
 Patient was given: 60mL PO lactulose.  
 Imaging showed: patent portal vein, chirrosis, and 
cholelithiasis without evidence of cholecystitis.  
 Patient was seen by: hepatology, who recommended admission for 
infectious w/u and lactulose. Paracentesis done in the ED.  
 Of note, patient had recent admission ___ for HE in 
setting of recent para.  
 
 Currently, the patient c/o bilateral eyelid irritation. 
Otherwise no complaints. Is AAOx1 with asterixis.  
 
 ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 

 
Past Medical History:
NASH/Alcoholic cirrhosis complicated by hepatic encephalopathy, 
refractory ascites, varices, SMV thrombosis. 
Portal gastropathy
Esophageal varices. Low risk varices on EGD ___
UGI bleed ___ superficial gastric ulcer ___ nsaids 
SMV complete & partial portal and hepatic vein thrombosis ___
EtOH abuse (quit ___ years ago)
Diabetes
CVA (TIA)
Hypertension
GERD
Hiatal hernia
Hypercholesterolemia
Osteoporosis
Benign bladder tumor s/p resection 
 
Social History:
___
Family History:
The patient's father had cirrhosis ___ to alcoholism, died in 
his ___.  His father and mother both had HTN. 

 
Physical Exam:
Admission:
VS: 97.4 123/65 67 20 100% RA wt 96.7  
 GEN: Alert, oriented to person only, ___ in  
 bed, no acute distress  
 HEENT: MMM, anicteric sclerae, no conjunctival pallor  
 NECK: Supple without LAD  
 PULM: Generally CTA b/l without wheeze or rhonchi  
 COR: RRR (+)S1/S2, II/VI systolic murmur best heard at LUSB  
 ABD: Soft, non-tender, mildly distended with ascites, prominent 
umbilical hernia, para site at ___ with tegaderm c/d/i  
 EXTREM: Warm, well-perfused, trace edema b/l, ___ nails  
 NEURO: CN II-XII grossly intact, motor function grossly normal, 
 
 + asterixis  '

Discharge:
VS: 97.7  ___  117-129/56-68  20  100%RA
120/NR  3000/250
GEN: Alert, oriented to person and place, month of the year, 
lying in bed in no acute distress 
HEENT: MMM, anicteric sclerae, no conjunctival pallor. R ear 
with mild cerumen buildup but no obvious eyrythema or effusion.
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2, II/VI systolic murmur best heard at LUSB  
ABD: Soft, non-tender, mildly distended with ascites, prominent 
umbilical hernia, para site at ___ with tegaderm c/d/i  
EXTREM: Warm, well-perfused, trace edema b/l, ___ nails  
NEURO: CN II-XII grossly intact, motor function grossly normal, 
+ asterixis 
 

 
Pertinent Results:
Admission:
___ 07:30PM ASCITES  TOT PROT-1.4 GLUCOSE-122
___ 07:30PM ASCITES  WBC-49* RBC-2170* POLYS-0 LYMPHS-22* 
MONOS-75* MESOTHELI-3*
___ 06:08PM   COMMENTS-GREEN TOP
___ 06:08PM   LACTATE-1.5
___ 05:41PM   GLUCOSE-93 UREA N-34* CREAT-2.0* SODIUM-131* 
POTASSIUM-3.0* CHLORIDE-101 TOTAL CO2-14* ANION GAP-19
___ 05:41PM   ALT(SGPT)-21 AST(SGOT)-27 ALK PHOS-99 TOT 
BILI-0.9
___ 05:41PM   LIPASE-33
___ 05:41PM   ALBUMIN-4.7
___ 05:41PM   WBC-3.3* RBC-3.61* HGB-10.5* HCT-31.9* MCV-88 
MCH-29.1 MCHC-32.9 RDW-14.2 RDWSD-45.7
___ 05:41PM   NEUTS-65.8 LYMPHS-13.6* MONOS-10.3 EOS-9.1* 
BASOS-0.9 IM ___ AbsNeut-2.18 AbsLymp-0.45* AbsMono-0.34 
AbsEos-0.30 AbsBaso-0.03
___ 05:41PM   PLT COUNT-77*
___ 05:41PM   ___ PTT-47.3* ___

Discharge:

___ 04:46AM BLOOD WBC-2.9* RBC-2.83* Hgb-8.3* Hct-25.2* 
MCV-89 MCH-29.3 MCHC-32.9 RDW-14.8 RDWSD-47.8* Plt Ct-64*
___ 04:46AM BLOOD Plt Ct-64*
___ 04:46AM BLOOD ___ PTT-92.2* ___
___ 04:46AM BLOOD Glucose-150* UreaN-40* Creat-1.8* Na-131* 
K-3.9 Cl-102 HCO3-17* AnGap-16
___ 04:46AM BLOOD ALT-18 AST-25 AlkPhos-116 TotBili-1.0
___ 04:46AM BLOOD Calcium-9.8 Phos-4.3 Mg-2.4

Studies:
CXR ___: Low lung volumes with mild bibasilar atelectasis.  

RUQ ___:  
 1. Patent portal vein.  
 2. Cirrhotic liver and splenomegaly.  
 3. Cholelithiasis without evidence of acute cholecystitis.  

Micro:
PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

**FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml.
___ 4:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending)x2: 
PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Brief Hospital Course:
==============================================
In brief, Mr. ___ is a ___ year old male with PMH of EtOH/NASH 
cirrhosis (on the transplant list) complicated by diuretic 
refractory ascites, s/p peritoneal shunt placement and removal 
due to ineffectiveness necessitating biweekly paracenteses, 
grade II esophageal varices status post-banding in ___, 
hepatic encephalopathy, and portal vein and SMV thrombosis on 
systemic anticoagulation who was admitted with hepatic 
encephalopathy and prerenal ___. 

Active Issues:
================================================
#Hepatic Encephalopathy: the patient's wife noticed that the pt 
was more confused than normal. She increased his lactulose to 
q2hr at home but with no effect, so decided to bring him into 
the hospital. While in the hospital, the patient was treated 
with lactulose until his mentation cleared. No clear trigger for 
his HE was identified, as the patient had no clear sign of GI 
bleed or infection, and had been taking his medication as 
prescribed.

___ on CKD: He also developed ___ with creatinine peaking at 
2.1, which improved and plateaued at 1.8 on discharge. This most 
likely represents his new baseline renal function. We felt that 
most likely his ___ was ___ prerenal as it responded to fluids, 
but we continued his Midodrine for HRS prophylaxis dosing. 

#Ascites: the patient had one ___ guided paracentesis while 
hospitalized and is scheduled for another on ___. His 
peritoneal fluid cell count and culture did not indicate SBP.

Chronic Issues:
=================================================
#History of DVT and PE: Due to fluctuating kidney function, we 
had held his enoxaparin during the hospitalization and treated 
him with a heparin drip, but on discharge restarted his home 
dose of enoxaparin on discharge. 
# NASH/ETOH CIRRHOSIS: MELD 15. On transplant list.  Continued 
midodrine for HRS ppx, ursodiol for itching. Continue weekly 
paracenteses as above.
# GIB/VARICES: grade II esophageal varices status post-banding  
 in ___. Last EGD ___ showed 2 cords small varices  
#DIABETES: ISS while in hospital, continued home glimepiride for 
d/c.
# Glaucoma: continued latanoprost eye drops  
 

Transitional Issues:
==================================================
-Please re-evaluate need for treatment dose Lovenox
-Pt scheduled for therapeutic/diagnostic paracentesis on ___.
-Gabapentin held on discharge due to recent encephalopathy. 
Consider restarting.
-Patient to have labs drawn on ___ to evaluate renal function
-Hydroxyzine, loratidine and gabapentin were held given his 
encephalopathy. Please consider restarting these as an 
outpatient if required. 

#CODE: Full 
#CONTACT: Patient, ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC Q24H 
2. Lactulose 30 mL PO Q6H 
3. Loratadine 10 mg PO DAILY 
4. Midodrine 5 mg PO TID 
5. Omeprazole 20 mg PO Q12H 
6. Rifaximin 550 mg PO BID 
7. Ursodiol 300 mg PO BID 
8. Vitamin D 600 UNIT PO BID 
9. Calcium Carbonate 600 mg PO BID 
10. Ferrous Sulfate 325 mg PO TID 
11. Gabapentin 100 mg PO BID 
12. glimepiride 0.5  oral DAILY 
13. HydrOXYzine 25 mg PO QHS:PRN itching 
14. Magnesium Oxide 400 mg PO BID 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1. Calcium Carbonate 600 mg PO BID 
2. Enoxaparin Sodium 100 mg SC DAILY 
3. Ferrous Sulfate 325 mg PO TID 
4. Lactulose 30 mL PO Q6H 
RX *lactulose 20 gram/30 mL 30 mL by mouth Q6HR Refills:*0
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
7. Omeprazole 20 mg PO Q12H 
8. Rifaximin 550 mg PO BID 
9. Ursodiol 300 mg PO BID 
10. Vitamin D 600 UNIT PO BID 
11. glimepiride 0.5  oral DAILY 
12. Magnesium Oxide 400 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hepatic encephalopathy, prerenal ___
Secondary: Cirrhosis, Portal vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to confusion from your liver 
disease. We treated you with lactulose and your mental status 
improved. You also had an injury to your kidney that was 
probably due to low blood flow to your kidney due to your liver 
disease. You also had a paracentesis while you were here to 
remove ascites fluid from your abdomen. By the time of 
discharge, you were thinking much more clearly and your kidney 
function stabilized. You should follow up with your PCP and with 
Dr. ___ at the times listed below. You also have a 
paracentesis scheduled for this ___. You will also 
need to have labs drawn at this time. 

We wish you all the best,

Sincerely,
Your care team at ___ 
 
Followup Instructions:
___